US05238837
A mixture of methyl 22-phthalimidodocosanoate (1.5 g, 3.0 mmoles), 40 ml of ethanol and 80% hydrazine hydrate was refluxed for 10 hours. To the reaction mixture was added 11.3 ml of 6N aqueous hydrochloric acid solution, and further refluxed for 1 hour. After removal by filtration of the insoluble matter that formed, the reaction mixture was concentrated under reduced pressure. To the residue were added 30 ml of ethanol and 15 ml of 1N aqueous sodium hydroxide solution, and the resulting mixture was refluxed for 19 hours. After neutralization of the reaction mixture with 6N aqueous hydrochloric acid solution, the precipitates that formed were collected by filtration and recrystallized from ethanol-acetic acid-water to give 22-aminodocosanoic acid (827 mg, 77%) having the following properties.

reactant | methyl 22-phthalimidodocosanoate | 3.0 mmoles, 1.5 g | C1(C=2C(C(N1CCCCCCCCCCCCCCCCCCCCCC(=O)OC)=O)=CC=CC2)=O | C31H49NO4
reactant | hydrazine hydrate | O.NN
reactant | hydrochloric acid | 6N, 11.3 ml | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 22-aminodocosanoic acid | 827 mg, 77% | NCCCCCCCCCCCCCCCCCCCCCC(=O)O | C22H45NO2
